US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-pyridine-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-(1-pyridin-4-yl-6-methoxy-isoquinolin-3-yl)-amine. LC-MS m/e 332(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-pyridine-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (5-methyl-1H-pyrazol-3-yl)-(1-pyridin-4-yl-6-methoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)C1=CC=NC=C1 | C19H17N5O
